US06803375B1
Following the procedure outlined in Example 1, 1.3 g (52 mmol) of magnesium turnings, 10.0 g (52 mmol) of 1-bromo-2-chlorobenzene and 9.4 g (52 mmol) benzophenone gave 9.81 g (64%) of (2-Chlorophenyl) diphenyl methanol (Compound T3), mp: 91° C.

reactant | magnesium | 52 mmol, 1.3 g | [Mg] | Mg
reactant | 1-bromo-2-chlorobenzene | 52 mmol, 10.0 g | BrC1=C(C=CC=C1)Cl | C6H4BrCl
reactant | benzophenone | 52 mmol, 9.4 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
product | (2-Chlorophenyl) diphenyl methanol | 9.81 g, 64% | ClC1=C(C=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15ClO
